US04870188
To a solution of tri-n-butylstannyl 5-(tri-n-butylstannyl)-4-pentenoate acid (1.0 equiv.) in anhydrous THF at room temperature is added dicyclohexyl carbodiimide (1.2 equiv) (Aldrich) and 2,3,5,6-tetrafluorophenol (1.2 equiv) (Aldrich). The resulting solution is stirred overnight. The mixture is filtered, the filtrate is concentrated, and the residue is chromatographed to provide 2,3,5,6-tetrafluorophenyl 5-(tri-n-butylstannyl)-4-pentenoate.

reactant | tri-n-butylstannyl 5-(tri-n-butylstannyl)-4-pentenoate | 1.0 equiv. | C(CCC)[Sn](C=CCCC(=O)O[Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
reactant | dicyclohexyl carbodiimide | 1.2 equiv | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2,3,5,6-tetrafluorophenol | 1.2 equiv | FC1=C(C(=C(C=C1F)F)F)O | C6H2F4O
solvent | THF | C1CCOC1 | C4H8O
product | 2,3,5,6-tetrafluorophenyl 5-(tri-n-butylstannyl)-4-pentenoate | C(CCC)[Sn](C=CCCC(=O)OC1=C(C(=CC(=C1F)F)F)F)(CCCC)CCCC | InChI=1S/C11H7F4O2.3C4H9.Sn/c1-2-3-4-8(16)17-11-9(14)6(12)5-7(13)10(11)15;3*1-3-4-2;/h1-2,5H,3-4H2;3*1,3-4H2,2H3;
